US03987158
Dry hydrogen chloride was passed into a mixture of 4-chlorophenylacetonitrile (50.5 g.) and dry ethanol (16.1 g., 20.1 ml.) until a weight increase of 14.6 g. was obtained. The mixture was allowed to stand at room temperature for 3 days; the resulting crystalline mass was broken up, digested thoroughly with dry ether, filtered, and dried in vacuo to give ethyl 4-chlorophenylacetimidate hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | 4-chlorophenylacetonitrile | 50.5 g | ClC1=CC=C(C=C1)CC#N | C8H6ClN
reactant | ethanol | 20.1 ml, 16.1 g | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | ethyl 4-chlorophenylacetimidate hydrochloride | Cl.ClC1=CC=C(C=C1)CC(OCC)=N | InChI=1S/C10H12ClNO.ClH/c1-2-13-10(12)7-8-3-5-9(11)6-4-8;/h3-6,12H,2,7H2,1H3;1H
